US08242139B2
tert-butyl 3-(4-bromophenyl)-3-hydroxypyrrolidine-1-carboxylate
To a cold (−78° C.) solution of 1,4-dibromobenzene (3.89 g, 16.49 mmol) in tetrahydrofuran (80 mL) was added n-butyllithium (10.3 mL, 16.5 mmol, 1.6 M in hexane) dropwise. After 15 minutes, a solution of tert-butyl 3-oxopyrrolidine-1-carboxylate (3.05 g, 16.49 mmol) in tetrahydrofuran (10 mL) was added over 5 minutes. The reaction continued to stir at −78° C. for 15 minutes and was then quenched by the addition of saturated NH4Cl (150 mL) and diethyl ether (150 mL). After warming to room temperature, the layers were separated, and the aqueous was extracted with additional diethyl ether (2×100 mL). The combined organic layers were dried with anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by MPLC (10% ethyl acetate in hexane to 50% ethyl acetate in hexane) to give the title product. MS (ESI) m/z 342 [M+H]+.

reactant | 1,4-dibromobenzene | 16.49 mmol, 3.89 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-butyllithium | 16.5 mmol, 1.6 M, 10.3 mL | C(CCC)[Li]
reactant | tert-butyl 3-oxopyrrolidine-1-carboxylate | 16.49 mmol, 3.05 g | O=C1CN(CC1)C(=O)OC(C)(C)C | C9H15NO3
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-(4-bromophenyl)-3-hydroxypyrrolidine-1-carboxylate | BrC1=CC=C(C=C1)C1(CN(CC1)C(=O)OC(C)(C)C)O | C15H20BrNO3
